US04255436
2-oxo-4,5-dimethyl-5-(3-methyl-2-pentenyl)-3-thiazoline-oxime was reacted with methylisocyanate as described in Example 4 to yield 2-oxo-4,5-dimethyl-5-(3-methyl-2-pentenyl)-3-thiazoline-O-(methylcarbamoyl)-oxime as a viscous oil; nD20 =1.5424.

reactant | 2-oxo-4,5-dimethyl-5-(3-methyl-2-pentenyl)-3-thiazoline-oxime | N(O)=C1SC(C(=N1)C)(CC=C(CC)C)C | C11H18N2OS
reactant | methylisocyanate | CN=C=O | C2H3NO
product | 2-oxo-4,5-dimethyl-5-(3-methyl-2-pentenyl)-3-thiazoline-O-(methylcarbamoyl)-oxime | CNC(=O)ON=C1SC(C(=N1)C)(CC=C(CC)C)C | C13H21N3O2S
